US08492378B2
3-bromo-5-(5-methyl-1,3,4-oxadiazol-2-yl)furo[3,2-b]pyridine
A solution of 3-bromofuro[3,2-b]pyridine-5-carbohydrazide (0.16 g, 0.64 mmol) and triethyl orthoacetate (0.26 mL, 1.40 mmol) in n-butanol (3 mL) was heated under reflux for 1 hr. 1,8-Diazabicyclo[5.4.0]undec-7-ene (0.096 mL, 0.64 mmol) was added to the reaction mixture, and the resulting mixture was heated under reflux overnight. After cooling, the precipitate was collected by filtration, purified by silica gel column chromatography (hexane/ethyl acetate=3/1), and recrystallized from hexane/ethyl acetate to give the title compound (41 mg, yield 23%) as colorless crystals.

reactant | 3-bromofuro[3,2-b]pyridine-5-carbohydrazide | 0.64 mmol, 0.16 g | BrC1=COC=2C1=NC(=CC2)C(=O)NN | C8H6BrN3O2
reactant | triethyl orthoacetate | 1.40 mmol, 0.26 mL | C(C)(OCC)(OCC)OCC | C8H18O3
reactant | 1,8-Diazabicyclo[5.4.0]undec-7-ene | 0.64 mmol, 0.096 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | n-butanol | 3 mL | C(CCC)O | C4H10O
product | 3-bromo-5-(5-methyl-1,3,4-oxadiazol-2-yl)furo[3,2-b]pyridine | 41 mg, yield 23% | BrC1=COC=2C1=NC(=CC2)C=2OC(=NN2)C | C10H6BrN3O2
